*$
* LMP7721
*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: LMP7721
* Date: 20DEC2021
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SNOSAW6E -JANUARY 2008-REVISED DECEMBER 2014
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* 1. Modified the capacitor(C14) value from 1F to 100nF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Updated Aol to match the GBW as per the datasheet.
*
* Final 1.2
* Updated claw, Added Vos drift.
*
* Final 1.1 
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout) 
*****************************************************************************
.SUBCKT LMP7721 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N3294772 N3294776  106.1F   
C_C10         N3294626 N3294630  1.1821U   
C_C100        N43397161 MID  1.5347N   
C_C103        N4029666 MID  2.532F   
C_C108        N4389761 N2991579  2.1221F   
C_C13         N2992397 0  1F   
C_C14         0 N2992375  100N   
C_C15         N2992413 0  1F   
C_C16         N2991741 MID  1F   
C_C17         N2991765 MID  1F   
C_C18         N2991811 MID  1F   
C_C19         N2991831 MID  1F   
C_C20         N2991907 MID  1F   
C_C21         N2991925 MID  1F   
C_C22         MID N2991969  1F   
C_C23         N2992033 MID  1F   
C_C24         N2992029 MID  1F   
C_C25         N2992093 MID  1P   
C_C26         N2992099 MID  1P   
C_C27         SW_OL_LMP7721 MID  100P   
C_C29         VIMON MID  1N   
C_C30         VOUT_S MID  1N   
C_C4          N2991657 MID  1F   
C_C5          CLAMP MID  11.532N   
C_C70         VCLP MID  100P   
C_C72         N4031911 MID  3.1937F   
C_C74         N3827259 N3828449  132.63F   
C_C77         N3850714 N3850724  3.1831F   
C_C78         N3850734 N2991581  1.5915P   
C_C89         N4029618 N4029628  1.273P   
C_C93         N4243633 N4243623  1.5915F   
C_C94         N3294524 MID  3.8937F   
C_C99         N4303995 N2991553  265.26F   
C_C_COM0      ESDP MID  15P   
C_C_COM1      MID ESDN  15P   
C_C_DIFF      ESDN ESDP  5P   
E_E1          MID 0 N2992375 0 1
E_E3          N2992163 MID OUT MID 1
E_E4          N3294618 MID CL_CLAMP MID 1
G_G1          N3294772 MID ESDP MID -26.6667
G_G12         CLAW_CLAMP MID N3294524 MID -1M
G_G13         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G16         N3201092 MID N3294630 MID -60.5303
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N2991563 N2991555 N2991553 MID -1M
G_G20         VCC_CLP MID N2992033 MID -1M
G_G21         VEE_CLP MID N2992029 MID -1M
G_G22         N2992299 MID N2992295 MID -1
G_G23         N2992323 MID N2992331 MID -1
G_G39         N3294626 MID CL_CLAMP N2992235 -89.047
G_G4          N3850714 MID VCC_B MID -889.1U
G_G41         N4031911 MID N4029628 MID -1U
G_G48         N3850734 MID N3850724 MID -700
G_G5          N2991587 N2991583 N2991581 N2991579 -1M
G_G59         N4029618 MID N4029666 MID -1.28
G_G6          VSENSE MID CLAMP MID -1M
G_G63         N4243633 MID VEE_B MID -150
G_G64         N3294524 MID N4031911 MID -1U
G_G69         N4303995 MID N3294776 MID -114.5U
G_G71         N3827259 MID N4339672 MID -1
G_G74         N4029666 MID VSENSE MID -1U
G_G79         N4389761 MID N4243623 MID -12.943M
I_I_B         N2991573 MID DC 3.068F  
I_I_OS        ESDN MID DC -3.130F  
I_I_Q         VCC VEE DC 1.3M  
R_R15         N2991583 N2991563 R_NOISELESS 1M
R_R16         N2991587 N2991583 R_NOISELESS 1K
R_R167        N3294618 VCLP R_NOISELESS 100
R_R17         N2991619 ESDN R_NOISELESS 1M
R_R171        MID N4031911 R_NOISELESS 1MEG
R_R176        MID N3827259 R_NOISELESS 1
R_R178        N3828449 N3827259 R_NOISELESS 10K
R_R179        MID N3828449 R_NOISELESS 2.2803
R_R18         MID N2991623 R_NOISELESS 1T
R_R187        N3850724 N3850714 R_NOISELESS 100MEG
R_R188        N2991581 N3850734 R_NOISELESS 100MEG
R_R189        MID N3850714 R_NOISELESS 1
R_R19         MID N2991635 R_NOISELESS 1T
R_R190        MID N3850724 R_NOISELESS 5.263158MEG
R_R191        MID N3850734 R_NOISELESS 1
R_R192        MID N2991581 R_NOISELESS 143.1K
R_R20         N2991643 MID R_NOISELESS 1
R_R21         N2991657 N2991643 R_NOISELESS 1M
R_R22         MID N2991667 R_NOISELESS 1MEG
R_R223        N4029628 N4029618 R_NOISELESS 10K
R_R224        MID N4029618 R_NOISELESS 1
R_R225        MID N4029628 R_NOISELESS 35.71K
R_R23         MID CLAMP R_NOISELESS 1MEG
R_R230        N4243623 N4243633 R_NOISELESS 100MEG
R_R233        MID N4243623 R_NOISELESS 671.14094K
R_R234        MID N4243633 R_NOISELESS 1
R_R235        MID N3294524 R_NOISELESS 1MEG
R_R24         MID VSENSE R_NOISELESS 1K
R_R246        N2991553 N4303995 R_NOISELESS 100MEG
R_R247        MID N4303995 R_NOISELESS 1
R_R248        MID N2991553 R_NOISELESS 31.578947MEG
R_R250        N4339672 N3201092 R_NOISELESS 1.083333K
R_R251        N43397161 N4339672 R_NOISELESS 10K
R_R252        MID N3201092 R_NOISELESS 1
R_R259        MID N4029666 R_NOISELESS 1MEG
R_R264        N2991579 N4389761 R_NOISELESS 100MEG
R_R265        MID N4389761 R_NOISELESS 1
R_R266        MID N2991579 R_NOISELESS 502.512563K
R_R32         MID CLAW_CLAMP R_NOISELESS 1K
R_R33         MID CL_CLAMP R_NOISELESS 1K
R_R34         N3294630 N3294626 R_NOISELESS 10K
R_R35         MID N3294626 R_NOISELESS 1
R_R36         MID N3294630 R_NOISELESS 167.9817
R_R43         MID N3294682 R_NOISELESS 1
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N2992397 R_NOISELESS 1M
R_R48         N2992397 N2992375 R_NOISELESS 1MEG
R_R49         N2992375 0 R_NOISELESS 1T
R_R5          MID N3294772 R_NOISELESS 1
R_R50         N2992375 N2992413 R_NOISELESS 1MEG
R_R51         N2992413 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N2991729 MID R_NOISELESS 1
R_R55         N2991741 N2991729 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N2991763 MID R_NOISELESS 1
R_R58         N2991765 N2991763 R_NOISELESS 1M
R_R59         N2991807 MID R_NOISELESS 1T
R_R6          N3294776 N3294772 R_NOISELESS 100MEG
R_R60         N2991809 MID R_NOISELESS 1
R_R61         N2991811 N2991809 R_NOISELESS 1M
R_R62         N2991831 N2991837 R_NOISELESS 1M
R_R63         N2991849 MID R_NOISELESS 1T
R_R64         N2991837 MID R_NOISELESS 1
R_R65         N2991901 MID R_NOISELESS 1T
R_R66         N2991905 MID R_NOISELESS 1
R_R67         N2991907 N2991905 R_NOISELESS 1M
R_R68         N2991925 N2991931 R_NOISELESS 1M
R_R69         N2991943 MID R_NOISELESS 1T
R_R7          MID N3294776 R_NOISELESS 3.896104MEG
R_R70         N2991931 MID R_NOISELESS 1
R_R71         N2991969 VSENSE R_NOISELESS 1M
R_R72         VCC_B N2991997 R_NOISELESS 1K
R_R73         N2991997 N2992033 R_NOISELESS 1M
R_R74         N2992001 VEE_B R_NOISELESS 1K
R_R75         N2992001 N2992029 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N2992323 MID R_NOISELESS 1
R_R79         N2992299 MID R_NOISELESS 1
R_R8          N2991563 N2991555 R_NOISELESS 1K
R_R80         V11 N2992093 R_NOISELESS 100
R_R81         V12 N2992099 R_NOISELESS 100
R_R82         N2992105 MID R_NOISELESS 1
R_R83         N2992105 SW_OL_LMP7721 R_NOISELESS 100
R_RDUMMY      MID N2992235 R_NOISELESS 10K
R_RS_INN      IN- ESDN R_NOISELESS 10M
R_RS_INP      IN+ ESDP R_NOISELESS 10M
R_RX          N2992235 N3294682 R_NOISELESS 100K
R_RX1         MID N2992151 R_NOISELESS 1T
R_RX2         VIMON N2992151 R_NOISELESS 100
R_RX3         MID N2992163 R_NOISELESS 1T
R_RX4         VOUT_S N2992163 R_NOISELESS 100
R_R_CM1       ESDP MID R_NOISELESS 1T
R_R_CM2       MID ESDN R_NOISELESS 1T
V_VCM_MAX     N2991623 VCC_B -1
V_VCM_MIN     N2991635 VEE_B -300M
V_V_GRN       N2991943 MID -80
V_V_GRP       N2991901 MID 110
V_V_ISCN      N2991849 MID -19.97
V_V_ISCP      N2991807 MID 46.98
V_V_ORN       N2992295 VCLP -11.4
V_V_ORP       N2992331 VCLP 13.5
X_H1          N2992235 OUT N2992151 MID BLOCK_DC_H1_LMP7721 
X_H2          N2992287 N2992323 V12 MID BLOCK_DC_H2_LMP7721 
X_H3          N2992267 N2992299 V11 MID BLOCK_DC_H3_LMP7721 
X_S1          N2992267 CLAMP N2992267 CLAMP BLOCK_DC_S1_LMP7721 
X_S2          CLAMP N2992287 CLAMP N2992287 BLOCK_DC_S2_LMP7721 
X_U1          N2991573 ESDP VNSE_LMP7721 PARAMS: FLW=10 GLF=0.06110 RNV=50.024
X_U10         VCC_CLP VEE_CLP VOUT_S MID N2991729 N2991763 CLAMP_AMP_LO_LMP7721 PARAMS:
+  G=1
X_U11         N2991807 N2991849 VIMON MID N2991809 N2991837 CLAMP_AMP_LO_LMP7721
+  PARAMS: G=1
X_U12         N2991901 N2991943 N2991969 MID N2991905 N2991931 CLAMP_AMP_HI_LMP7721
+  PARAMS: G=10
X_U16         MID N2992105 N2992093 N2992099 OL_SENSE_LMP7721
X_U18         VIMON MID N2991997 VCC_B CLAWP_LMP7721
X_U19         MID VIMON VEE_B N2992001 CLAWN_LMP7721
X_U20         ESDN ESDP ESD_BB_LMP7721
X_U21         OUT VCC VEE ESD_OUT_LMP7721
X_U22         N2991811 N2991831 CL_CLAMP MID CL_SRC_LMP7721 PARAMS: GAIN=1 IPOS=0.44E1
+  INEG=-0.32E1
X_U23         N2991907 N2991925 CLAMP MID GR_SRC_LMP7721 PARAMS: GAIN=1 IPOS=0.25E1
+  INEG=-0.25E1
X_U25         SW_OL_LMP7721 MID N3294626 N3294630 SW_OL_LMP7721
X_U26         VIMON MID VCC MID IQ_SRC_LMP7721 PARAMS: GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_LMP7721 PARAMS: GAIN=1E-3
X_U30         N2991657 N2991619 MID N2991667 AOL_1_LMP7721 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N2991667 MID MID CLAMP AOL_2_LMP7721 PARAMS: GAIN=0.012375 IPOS=0.12066
+  INEG=-0.14759
X_U32         N3828449 MID MID N3294682 ZO_SRC_LMP7721 PARAMS: GAIN=4386.4386 IPOS=10E4
+  INEG=-10E4
X_U35         N2991741 N2991765 CLAW_CLAMP MID CLAW_SRC_LMP7721 PARAMS: GAIN=1
+  IPOS=0.22E1 INEG=-0.16E1
X_U36         MID N2991573 FEMT_LMP7721 PARAMS: NVRF=10.1
X_U37         ESDN MID FEMT_LMP7721 PARAMS: NVRF=10.1
X_U4          N2991555 N2991573 VOS_DRIFT_LMP7721 PARAMS: DC=-0.00024696 POL=-1
+  DRIFT=1.50E-06
X_U5          ESDN ESDP VCC VEE ESD_IN_LMP7721
X_U6          N2991587 MID N2991643 MID N2991623 N2991635 VCM_CLAMP_LMP7721 PARAMS:
+  GAIN=1
.ENDS LMP7721
*
.SUBCKT BLOCK_DC_H1_LMP7721 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_LMP7721
*
.SUBCKT BLOCK_DC_H2_LMP7721 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_LMP7721
*
.SUBCKT BLOCK_DC_H3_LMP7721 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_LMP7721
*
.SUBCKT BLOCK_DC_S1_LMP7721 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_LMP7721
*
.SUBCKT BLOCK_DC_S2_LMP7721 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_LMP7721
*
.SUBCKT AOL_1_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_LMP7721
*
.SUBCKT AOL_2_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=0.012375 IPOS=0.12066 INEG=-0.14759
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_LMP7721
*
.SUBCKT CLAMP_AMP_HI_LMP7721 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_LMP7721
*
.SUBCKT CLAMP_AMP_LO_LMP7721 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_LMP7721
*
.SUBCKT CLAWN_LMP7721 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,          26.9E-6)
+(13.7761, 0.00068134)
+(16.1308,   0.000855)
+(17.2481,   0.001011)
+(18.0841,    0.00121)
+(18.5977,  0.0015755)
+(19.0569,  0.0019018)
+(19.5161,  0.0022172)
+(19.7514,  0.0023199)
+(19.97,       0.0025)
.ENDS  CLAWN_LMP7721
*
.SUBCKT CLAWP_LMP7721 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,        35E-6)
+(3.59,	 1.00E-04)
+(11.4,	 2.40E-04)
+(27.42, 5.10E-04)
+(33.3,	 6.90E-04)
+(37.78, 9.90E-04)
+(43.21, 1.49E-03)
+(46.06, 2.00E-03)
+(46.5,	 2.24E-03)
+(46.98, 2.49E-03)
.ENDS  CLAWP_LMP7721
*
.SUBCKT CLAW_SRC_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.22E1 INEG=-0.16E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_LMP7721
*
.SUBCKT CL_SRC_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.44E1 INEG=-0.32E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_LMP7721
*
.SUBCKT ESD_BB_LMP7721 ESDN ESDP
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=650E-3)
S1 ESDN ESDP ESDN ESDP ESD_SW
S2 ESDP ESDN ESDP ESDN ESD_SW
.ENDS  ESD_BB_LMP7721
*
.SUBCKT ESD_IN_LMP7721 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_LMP7721
*
.SUBCKT ESD_OUT_LMP7721 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_LMP7721
*
.SUBCKT FEMT_LMP7721 1 2 PARAMS: NVRF=10.1
E1 3 0 5 0 10
R1 5 0 {1.184*PWR(NVRF,2)}
R2 5 0 {1.184*PWR(NVRF,2)}
G1 1 2 3 0 1E-6
.ENDS  FEMT_LMP7721
*
.SUBCKT GR_SRC_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.25E1 INEG=-0.25E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_LMP7721
*
.SUBCKT IQ_SRC_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_LMP7721
*
.SUBCKT OL_SENSE_LMP7721 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS  OL_SENSE_LMP7721
*
.SUBCKT SW_OL_LMP7721 SW_OL_LMP7721 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_LMP7721 MID OL_SW
.ENDS  SW_OL_LMP7721
*
.SUBCKT VCM_CLAMP_LMP7721 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_LMP7721
*
.SUBCKT VNSE_LMP7721 1 2 PARAMS: FLW=10 GLF=0.06110 RNV=50.024
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_LMP7721
*
.SUBCKT VOS_DRIFT_LMP7721 VOS+ VOS- PARAMS: DC=-0.00024696 POL=-1 DRIFT=1.50E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_LMP7721
*
.SUBCKT ZO_SRC_LMP7721 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=95694.2536 IPOS=10E4 INEG=-10E4
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_LMP7721
*
.MODEL R_NOISELESS RES (T_ABS=-273.15)
*
